US08114878B2
2.2.6 (R)-1-(2-chloro-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-ylamino)-1-(4-fluoro-phenyl)-2-methyl-propan-2-ol
300 mg (R)-1-(2-chloro-6,7-dihydro-thieno[3,2-d]pyrimidin-4-ylamino)-1-(4-fluoro-phenyl)-2-methyl-propan-2-ol are placed in 2.0 ml acetic acid. The reaction mixture is cooled to +10° C. 127 μl hydrogen peroxide (35%) are added dropwise. The reaction mixture is stirred for 1 hour at +10° C. and then stirred into ice water. It is then made basic with an ammonia solution. The precipitate formed is suction filtered and purified by chromatography (silica gel, petroleum ether/ethyl acetate 50/50 to 0/100 then ethyl acetate/methanol 50/50). 70 mg of the product are obtained as an oil. Analytical HPLC-MS (method D): RT=1.17 min.

reactant | (R)-1-(2-chloro-6,7-dihydro-thieno[3,2-d]pyrimidin-4-ylamino)-1-(4-fluoro-phenyl)-2-methyl-propan-2-ol | 300 mg | ClC=1N=C(C2=C(N1)CCS2)N[C@@H](C(C)(O)C)C2=CC=C(C=C2)F | C16H17ClFN3OS
reactant | hydrogen peroxide | 127 μl | OO | H2O2
reactant | ammonia | N | H3N
solvent | acetic acid | 2.0 ml | C(C)(=O)O | C2H4O2
product | (R)-1-(2-chloro-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-ylamino)-1-(4-fluoro-phenyl)-2-methyl-propan-2-ol | 70 mg | ClC=1N=C(C2=C(N1)CCS2=O)N[C@@H](C(C)(O)C)C2=CC=C(C=C2)F | C16H17ClFN3O2S
